US06420375B1
Preparation of (Z)-2-fluoro-3-(2-naphthyl)-2-propen-1-ol
The reaction of ethyl (Z)-2-fluoro-3-(2-naphthyl)acrylate (3.77 g) with diisobutylaluminum hydride was carried out in a similar manner as described in Reference example 3 to give the titled compound (2.77 g) as a colorless solid.

reactant | ethyl (Z)-2-fluoro-3-(2-naphthyl)acrylate | 3.77 g | F\C(\C(=O)OCC)=C/C1=CC2=CC=CC=C2C=C1 | C15H13FO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (Z)-2-fluoro-3-(2-naphthyl)-2-propen-1-ol | 2.77 g | F\C(\CO)=C/C1=CC2=CC=CC=C2C=C1 | C13H11FO
